* /home/hemanth/esim-workspace/diboamp42/diboamp42.cir

.subckt diboamp42 in1 in2 vdd vss vout1 vout2


r1  vdd vout1 25k		
r2  vdd vout2 25k		
xM1 vout1 in1 sink vss sky130_fd_pr__nfet_01v8 w=2.1 l=1		
xM2 vout2 in2 sink vss sky130_fd_pr__nfet_01v8 w=2.1 l=1	
r3  sink vss 20k		

.ends diboamp42

