* c:\users\theje\esim-workspace\dt\dt.cir

* u1  clk net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ digital_tachometer
v1  net-_u2-pad1_ gnd pulse(0 5 0 1n 1n 50n 100n)
v2  net-_u2-pad2_ gnd pulse(0 5 200n 1n 1n 10m 20m)
v3  net-_u2-pad3_ gnd pulse(0 5 500u 1n 1n 2u 500u)
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ clk net-_u1-pad2_ net-_u1-pad3_ adc_bridge_3
* u6  net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ count_15 count_14 count_13 count_12 count_11 count_10 count_9 count_8 dac_bridge_8
* u7  net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ count_7 count_6 count_5 count_4 count_3 count_2 count_1 count_0 dac_bridge_8
* u8  net-_u1-pad20_ valid_out dac_bridge_1
* u3  clk plot_v1
* u4  rst plot_v1
* u5  sensor_in plot_v1
* u9  count_15 plot_v1
* u10  count_14 plot_v1
* u11  count_13 plot_v1
* u12  count_12 plot_v1
* u13  count_11 plot_v1
* u14  count_10 plot_v1
* u15  count_9 plot_v1
* u16  count_8 plot_v1
* u17  count_7 plot_v1
* u18  count_6 plot_v1
* u19  count_5 plot_v1
* u20  count_4 plot_v1
* u21  count_3 plot_v1
* u22  count_2 plot_v1
* u23  count_1 plot_v1
* u24  count_0 plot_v1
* u25  valid_out plot_v1
a1 [clk ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ ] [net-_u1-pad20_ ] u1
a2 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ ] [clk net-_u1-pad2_ net-_u1-pad3_ ] u2
a3 [net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ ] [count_15 count_14 count_13 count_12 count_11 count_10 count_9 count_8 ] u6
a4 [net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ ] [count_7 count_6 count_5 count_4 count_3 count_2 count_1 count_0 ] u7
a5 [net-_u1-pad20_ ] [valid_out ] u8
* Schematic Name:                             digital_tachometer, NgSpice Name: digital_tachometer
.model u1 digital_tachometer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 100e-09 600e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt

set xbrushwidth=3      
set color0=black       
set color1=white       

* 1. Mathematically reconstruct the 16 individual 5V bits into a single integer value
let count_val = (v(count_15)/5)*32768 + (v(count_14)/5)*16384 + (v(count_13)/5)*8192 + (v(count_12)/5)*4096 + (v(count_11)/5)*2048 + (v(count_10)/5)*1024 + (v(count_9)/5)*512 + (v(count_8)/5)*256 + (v(count_7)/5)*128 + (v(count_6)/5)*64 + (v(count_5)/5)*32 + (v(count_4)/5)*16 + (v(count_3)/5)*8 + (v(count_2)/5)*4 + (v(count_1)/5)*2 + (v(count_0)/5)*1

* 2. Plot the reconstructed number! (The Y-axis will show exactly 5000 when the lap finishes)
plot count_val

* 3. Plot the critical control signals stacked so they are easy to read
plot v(valid_out) (v(sensor_in)+6) (v(rst)+12)

.endc
.end
