.title kicad schematic

v1 ren gnd pulse(0 5 120n 1n 1n 70n 300n)
v4 din1 gnd pwl(0n 5 19n 5 20n 5 39n 5 40n 0 59n 0 60n 5 79n 5 80n 5)
v3 din2 gnd pwl(0n 0 19n 0 20n 5 39n 5 40n 5 59n 5 60n 0 79n 0 80n 0)
v2 din3 gnd pwl(0n 5 19n 5 20n 0 39n 0 40n 5 59n 5 60n 0 79n 0 80n 0)
v5 din0 gnd pwl(0n 5 19n 5 20n 0 39n 0 40n 5 59n 5 60n 0 79n 0 80n 0)
v6 wclk gnd pulse(0 5 0 1n 1n 10n 20n)
v9 wen gnd pulse(0 5 15n 1n 1n 70n 300n)
v7 rclk gnd pulse(0 5 0 1n 1n 17n 24n)
v8 rst gnd pwl(0n 5 10n 5 10.1n 0 300n 0)
* u8 net-_u6-pad5_ net-_u6-pad6_ net-_u6-pad7_ net-_u6-pad8_ net-_u7-pad6_ net-_u7-pad7_ net-_u7-pad8_ net-_u7-pad9_ net-_u7-pad10_ net-_u8-pad10_ net-_u8-pad11_ net-_u8-pad12_ net-_u8-pad13_ net-_u8-pad14_ net-_u8-pad15_ net-_u8-pad16_ elastic_buffer
* u9 net-_u8-pad10_ net-_u8-pad11_ net-_u8-pad12_ net-_u8-pad13_ net-_u8-pad14_ net-_u8-pad15_ net-_u8-pad16_ dout3 dout2 dout1 dout0 full empty half dac_bridge_7
* u6 wclk rclk rst wen net-_u6-pad5_ net-_u6-pad6_ net-_u6-pad7_ net-_u6-pad8_ adc_bridge_4
* u4 rclk plot_v1
* u5 wclk plot_v1
* u2 wen plot_v1
* u3 rst plot_v1
* u1 ren plot_v1
* u10 dout3 plot_v1
* u11 dout2 plot_v1
* u12 dout1 plot_v1
* u15 empty plot_v1
* u14 full plot_v1
* u13 dout0 plot_v1
* u16 half plot_v1
* u17 din3 plot_v1
* u19 din1 plot_v1
* u18 din2 plot_v1
* u20 din0 plot_v1
* u7 ren din3 din2 din1 din0 net-_u7-pad6_ net-_u7-pad7_ net-_u7-pad8_ net-_u7-pad9_ net-_u7-pad10_ adc_bridge_5
a1 [net-_u6-pad5_ ] [net-_u6-pad6_ ] [net-_u6-pad7_ ] [net-_u6-pad8_ ] [net-_u7-pad6_ ] [net-_u7-pad7_ ] [net-_u7-pad8_ ] [net-_u7-pad9_ ] [net-_u7-pad10_ ] [net-_u8-pad10_ ] [net-_u8-pad11_ ] [net-_u8-pad12_ ] [net-_u8-pad13_ ] [net-_u8-pad14_ ] [net-_u8-pad15_ ] [net-_u8-pad16_ ] u8
a2 [net-_u8-pad10_ net-_u8-pad11_ net-_u8-pad12_ net-_u8-pad13_ net-_u8-pad14_ net-_u8-pad15_ net-_u8-pad16_ ] [dout3 dout2 dout1 dout0 full empty half ] u9
a3 [wclk rclk rst wen ] [net-_u6-pad5_ net-_u6-pad6_ net-_u6-pad7_ net-_u6-pad8_ ] u6
a4 [ren din3 din2 din1 din0 ] [net-_u7-pad6_ net-_u7-pad7_ net-_u7-pad8_ net-_u7-pad9_ net-_u7-pad10_ ] u7
* Schematic Name:                             elastic_buffer, Ngspice Name: elastic_buffer
.model u8 elastic_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_7, Ngspice Name: dac_bridge
.model u9 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, Ngspice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_5, Ngspice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-09 200e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(rclk)
plot v(wclk)
plot v(wen)
plot v(rst)
plot v(ren)
plot v(dout3)
plot v(dout2)
plot v(dout1)
plot v(empty)
plot v(full)
plot v(dout0)
plot v(half)
plot v(din3)
plot v(din1)
plot v(din2)
plot v(din0)
.endc
.end
